US08981084B2
tert-Butyl 4-(5-cyanopyridin-2-yl)piperidine-1-carboxylate
This compound was synthesized from 6-bromonicotinonitrile and tert-butyl 4-iodopiperidine-1-carboxylate as described for example 49 step 1 (150 mg, yield 27%). 1H NMR (400 MHz, CDCl3) δ 8.82 (d, J=2.0 Hz, 1H), 7.91 (dd, J=8.2 Hz, 2.1 Hz, 1H), 7.30 (d, J=8.0 Hz, 1H), 4.28 (m, 2H), 2.97-2.81 (m, 3H), 1.91 (m, 2H), 1.78-1.67 (m, 2H), 1.48 (s, 9H). MS (ESI) m/z: Calculated for C16H21N3O2: 287.16. found: 188.2 (M+H-Boc)+

reactant | 6-bromonicotinonitrile | BrC1=NC=C(C#N)C=C1 | C6H3BrN2
reactant | tert-butyl 4-iodopiperidine-1-carboxylate | IC1CCN(CC1)C(=O)OC(C)(C)C | C10H18INO2
reactant | H-Boc | C(=O)OC(C)(C)C | C5H10O2
product | tert-Butyl 4-(5-cyanopyridin-2-yl)piperidine-1-carboxylate | yield 27% | C(#N)C=1C=CC(=NC1)C1CCN(CC1)C(=O)OC(C)(C)C | C16H21N3O2
